US04404205
A solution of 2.36 g. of ethyl 4-oxo-4,6,7,8,9,10-hexahydro-pyrimido[1,2-a]azepine-3-carboxylate in 10 ml. of 98% by W/V hydrazine hydrate is allowed to stand at room temperature for 2 hours. The precipitated crystals are filtered and washed with water and ethanol. 1.8 g. of (81%) 4-oxo-4,6,7,8,9,10-hexahydro-pyrimido[1,2-a]azepine-3-carbohydrazide are obtained melting at 184°-186° C.

reactant | ethyl 4-oxo-4,6,7,8,9,10-hexahydro-pyrimido[1,2-a]azepine-3-carboxylate | O=C1C(=CN=C2N1CCCCC2)C(=O)OCC | C12H16N2O3
reactant | hydrazine hydrate | O.NN
product | 4-oxo-4,6,7,8,9,10-hexahydro-pyrimido[1,2-a]azepine-3-carbohydrazide | 81% | O=C1C(=CN=C2N1CCCCC2)C(=O)NN | C10H14N4O2
